US06057337
2-(2-Hydroxyethyl)piperidine, HOBt and WSCI are added to N,N-dimethylformamide solution of 4-chlorobutyrate while being cooled with ice and the mixture is reacted at room temperature to obtain 1-(4-(chlorobutanoyl)-2-(2-hydroxyethyl)piperidine.

reactant | 2-(2-Hydroxyethyl)piperidine | OCCC1NCCCC1 | C7H15NO
reactant | HOBt | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | 4-chlorobutyrate | ClCCCC(=O)[O-]
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
product | 4-(chlorobutanoyl)-2-(2-hydroxyethyl)piperidine | ClCCCC(=O)C1CC(NCC1)CCO | C11H20ClNO2
